US04863914
A mixture of potassium 2-hydroxymethylbenzoate (9.45 g) and chloroacetone (5 ml) in dry dimethylformamide (100 ml) was stirred for 3 hours at room temperature. Ethyl acetate and brine were then added and the organic layer, after further washing with water, was dried and evaporated to obtain acetonyl 2-hydroxymethylbenzoate (10 g) as a white powder. A solution of this material (1 g) in dimethylformamide (20 ml) was stirred for 3 hours in the presence of tert-butyldiphenylsilylchloride (2.32 ml) and imidazole (0.864 g).

reactant | potassium 2-hydroxymethylbenzoate | 9.45 g | OCC1=C(C(=O)[O-])C=CC=C1.[K+]
reactant | chloroacetone | 5 ml | ClCC(C)=O | C3H5ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | acetonyl 2-hydroxymethylbenzoate | 10 g | OCC1=C(C(=O)OCC(=O)C)C=CC=C1 | C11H12O4
